US04207228
Preparation of cis-N1 -ethyl-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one:
1.25 g sodium hydride (50% in oil) was dissolved in p-dioxane in a 250 ml flask, and 4.15 g cis-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one added. The mixture is stirred for about 1.5 hr. and cooled. 5.0 g ethyl iodide dissolved in 5 ml dioxane was added and the mixture stirred at 55°-60° C. overnight. It is then cooled and the solvent is removed to yield 4.67 g of an oily product. The structure of the compound obtained is confirmed by IR, NMR and mass spectrometer data.

reactant | sodium hydride | 1.25 g | [H-].[Na+]
reactant | cis-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one | 4.15 g | CC1(N[C@H]2[C@@H](NC(C1)=O)CCCC2)C | C11H20N2O
reactant | ethyl iodide | 5.0 g | C(C)I | C2H5I
solvent | p-dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | cis-N1 -ethyl-4,4-dimethyl-decahydro-1,5-benzodiazepin-2-one | 4.67 g | C(C)N1C(CC(N[C@H]2[C@@H]1CCCC2)(C)C)=O | C13H24N2O
